US09340556B2
To a suspension of ethyl 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate (32 g, 59.8 mmol) in a mixture of Methanol (250 mL) and Water (125 mL) was added KOH (6.70 g, 120 mmol) portionwise. The resulting mixture was stirred at 90° C. for 3 h. LCMS indicated completion of the reaction. The mixture was cooled down to r.t. and concentrated. Water was then added, and the mixture was adjusted to pH ˜1 using 6 N aq. HCl. The precipitate was collected by filtration and dried to afford 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (28 g, 55.2 mmol, 92% yield) as a yellow solid. LCMS (M+H)+: 508.2.

reactant | ethyl 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 59.8 mmol, 32 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)OCC | C30H30FNO7
reactant | KOH | 120 mmol, 6.70 g | [OH-].[K+]
solvent | Methanol | 250 mL | CO | CH4O
solvent | Water | 125 mL | O | H2O
product | 1-ethyl-8-fluoro-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 55.2 mmol, 28 g, 92% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)O | C28H26FNO7
